US08470820B2
Step 1: 2-tert-Butyl-5-pyridin-2-yl-2H-pyrazol-3-ylamine
To a stirred solution of 3-oxo-3-pyridin-2-yl-propionitrile (0.40 g, 2.7 mmol; CAS 54123-21-6) at r.t. in EtOH (10 ml) under an argon atmosphere were added triethylamine (1.1 ml, 8.2 mmol) and t-butylhydrazine hydrochloride (1.02 g, 8.2 mmol). The mixture was heated to reflux and stirring was continued for 2 hrs. The orange solution was cooled to r.t. The solids were filtered off. The filtrate was concentrated to leave an orange viscous oil which was taken up in EtOAc and washed with water. The aqueous layer was extracted with EtOAc and with CH2Cl2/MeOH 9:1. The combined organics were dried over MgSO4, filtered and concentrated. After silica gel chromatography using CH2Cl2/MeOH as gradient, the product was obtained as off-white solid (0.366 g, 62%).

reactant | 3-oxo-3-pyridin-2-yl-propionitrile | 2.7 mmol, 0.40 g | O=C(CC#N)C1=NC=CC=C1 | C8H6N2O
reactant | triethylamine | 8.2 mmol, 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | t-butylhydrazine hydrochloride | 8.2 mmol, 1.02 g | Cl.C(C)(C)(C)NN
solvent | EtOH | 10 ml | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-tert-Butyl-5-pyridin-2-yl-2H-pyrazol-3-ylamine | 0.366 g, 62% | C(C)(C)(C)N1N=C(C=C1N)C1=NC=CC=C1 | C12H16N4
